US04879385
A solution of 30 g (0.093 mol) of 2-(4-chlorophenyl)-2-[2-(p-chlorophenoxy)-prop-2-yl]-oxirane in 40 ml of n-propanol is added dropwise to a solution of 7.6 g (0.107 mol) of 1,2,4-triazolyl-sodium in 60 ml of n-propanol, at room temperature. The reaction mixture is stirred at the reflux temperature for a further 48 hours and is cooled, water is added and the mixture is extracted with methylene chloride. The organic phase is dried over sodium sulphate and concentrated in vacuo. The oily residue is purified by column chromatography. 6.7 g (18.4% of theory) of 3-(4-chlorophenoxy)-2-(4-chlorophenyl)-3-methyl-1-(1,2,4-triazol-1-yl)-butan-2-ol are obtained. This is stirred with 20 ml of saturated hydrogen chloride/ether solution, at room temperature. The precipitate which separates out is filtered off under suction, rinsed with a small amount of ether and dried in vacuo at 40° C. 6.5 g (89% of theory, relative to base employed) of 3-(4-chlorophenoxy)-2-(4-chlorophenyl)-3-methyl-1-(1,2,4-triazol-1-yl)-butan-2-ol hydrochloride of melting point 135° C. are obtained.

reactant | 2-(4-chlorophenyl)-2-[2-(p-chlorophenoxy)-prop-2-yl]-oxirane | 0.093 mol, 30 g | ClC1=CC=C(C=C1)C1(OC1)C(C)(C)OC1=CC=C(C=C1)Cl | C17H16Cl2O2
reactant | 1,2,4-triazolyl-sodium | 0.107 mol, 7.6 g | N1N=C(N=C1)[Na]
reactant | water | O | H2O
solvent | n-propanol | 40 ml | C(CC)O | C3H8O
solvent | n-propanol | 60 ml | C(CC)O | C3H8O
product | 3-(4-chlorophenoxy)-2-(4-chlorophenyl)-3-methyl-1-(1,2,4-triazol-1-yl)-butan-2-ol | 6.7 g, 18.4% | ClC1=CC=C(OC(C(CN2N=CN=C2)(O)C2=CC=C(C=C2)Cl)(C)C)C=C1 | C19H19Cl2N3O2
